US05380758
Glutathione, L-cysteine, DL-homocysteine, D-penicillin, hemoglobin (bovine), methylene blue and Medium 199 sets were purchased from Sigma Chemical Co., St. Louis, Mo. N-acetylcysteine was obtained from Aldrich Chemical Co., Milwaukee, Wis. Captopril was kindly provided by Dr Victor Dzau. Sodium nitrite, histamine and methacholine were purchased from Fisher Scientific, Fairlawn, N.J. Leukotriene D4 was purchased from Anaquest, BOC Inc., Madison, Wis. Antibiotic/antimycotic mixture (10,000 U/ml penicillin G sodium, 10,000 mcg/ml, streptomycin sulfate, 25 mcg/ml amphotericin B) was purchased from Gibco Laboratories, Grand Island, N.Y. Radioimmunoassay kits for the determination of cyclic GMP were purchased from New England Nuclear, Boston, Mass.

reactant | Glutathione | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
reactant | DL-homocysteine | NC(CCS)C(=O)O | C4H9NO2S
reactant | methylene blue | CN(C)C=1C=CC2=C(C1)SC3=CC(=[N+](C)C)C=CC3=N2
reactant | N-acetylcysteine | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
product | Captopril | C[C@H](CS)C(=O)N1CCC[C@H]1C(=O)O | C9H15NO3S
